US04880812
A crude preparation of dimethyl N-[4-[2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)ethylamino]benzoyl]-L-glutamate hydrate (prepared on a 3.3 mmol scale but without recrystallization) was dissolved in 1N sodium hydroxide (100 ml) and ethanol (50 ml) containing 2-mercaptoethanol (0.25 ml). The reaction was heated with stirring to 55° for 18 hours and then spin evaporated in vacuo to a small volume. The pH of the ice bath cooled solution was adjusted to pH 4 with hydrochloric acid (12 N) to precipiate the product. Recrystallization from methanol/ether gave 0.52 g (38% of theory) of N-[4-[2-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)ethylamino]benzoyl]-L-glutamic acid, mp 180°-185°.

reactant | dimethyl N-[4-[2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)ethylamino]benzoyl]-L-glutamate hydrate | O.C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCNC1=CC=C(C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C=C1)=O
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | 2-mercaptoethanol | 0.25 ml | SCCO | C2H6OS
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | N-[4-[2-(2,4-diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)ethylamino]benzoyl]-L-glutamic acid | 0.52 g, 38% | NC=1NC(C(=C(N1)N)CCNC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)=O | C18H22N6O6
